US06013662
A solution of 166.6 g (0.424 mol) of methyl(3aRS,4SR,7aRS)-2-benzyl-4-(2-methoxyphenyl)-7-oxo-octahydroisoindole-3a-carboxylate and of 84.5 g (1.69 mol) of hydrazine hydrate in 2.8 dm3 of methanol is brought to reflux for two hours. After concentrating the methanol under reduced pressure, the residue was taken up in 2 dm3 of dichloromethane, washed with four times 1 dm3 of distilled water, dried over magnesium sulphate and concentrated under reduced pressure. 175.2 g of methyl(3aRS,4SR,7aRS)-2-benzyl-7-hydrazono-4-(2-methoxyphenyl)octahydroisoindole-3a-carboxylate were thus obtained in the form of a yellow oil, the characteristics of which were as follows:

reactant | methyl(3aRS,4SR,7aRS)-2-benzyl-4-(2-methoxyphenyl)-7-oxo-octahydroisoindole-3a-carboxylate | 0.424 mol, 166.6 g | COC(=O)C12CN(CC2C(CCC1C1=C(C=CC=C1)OC)=O)CC1=CC=CC=C1 | C24H27NO4
reactant | hydrazine hydrate | 1.69 mol, 84.5 g | O.NN
solvent | methanol | 2.8 dm3 | CO | CH4O
product | methyl(3aRS,4SR,7aRS)-2-benzyl-7-hydrazono-4-(2-methoxyphenyl)octahydroisoindole-3a-carboxylate | 175.2 g | COC(=O)C12CN(CC2C(CCC1C1=C(C=CC=C1)OC)=NN)CC1=CC=CC=C1 | C24H29N3O3
